US04460597
4-(2,4-dichlorobenzoyl)-1,3-dimethyl-5-[2-(N-methylanilino)ethoxy]pyrazole (Compound 2)
2.85 g of 4-(2,4-dichlorobenzoyl)-1,3-dimethyl-5-hydroxypyrazole was dissolved in 50 ml of acetonitrile, and 1.38 g of potassium carbonate (anydrous) was added thereto. The resultant mixture was stirred at room temperature for 2 hours, 2.14 g of β-bromoethyl-N-methylaniline was added, and the mixture heated for 3 hours under reflux. After cooling, crystals were filtered off. The filtrate was distilled under reduced pressure and the residue was purified by silica gel chromatography (eluent, benzene:ethyl acetate at 8:1) to give 3.82 g of the desired product, Compound 2, having nD24 1.5975 (yield 91.4%).

reactant | 4-(2,4-dichlorobenzoyl)-1,3-dimethyl-5-hydroxypyrazole | 2.85 g | ClC1=C(C(=O)C=2C(=NN(C2O)C)C)C=CC(=C1)Cl | C12H10Cl2N2O2
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | β-bromoethyl-N-methylaniline | 2.14 g | BrCCN(C1=CC=CC=C1)C | C9H12BrN
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-(2,4-dichlorobenzoyl)-1,3-dimethyl-5-[2-(N-methylanilino)ethoxy]pyrazole | 3.82 g | ClC1=C(C(=O)C=2C(=NN(C2OCCN(C2=CC=CC=C2)C)C)C)C=CC(=C1)Cl | C21H21Cl2N3O2
